US06274119B1
To a solution of 201 mg (0.83 mmol) of 1-(6-2-hydroxyethyl-methylamino-2-naphthyl)-1-ethanone in pyridine (6 mL), malononitrile (236 mg, 3.6 mmol) was added and the mixture was heated at 95° C. for 24 hours. The solvent was removed in vacuo, and the residue was chromatographed by radial chromatography (4 mm SiO2 1% MeOH/CH2Cl2) to give 150 mg (73%) of 2-(1,1-dicyanopropen-2-yl)-6-2-hydroxyethyl)-methyl-amino)-naphthalene.

reactant | 1-(6-2-hydroxyethyl-methylamino-2-naphthyl)-1-ethanone | 0.83 mmol, 201 mg | OCCC=1C=C2C=CC(=C(C2=CC1)NC)C(C)=O | C15H17NO2
reactant | malononitrile | 3.6 mmol, 236 mg | C(CC#N)#N | C3H2N2
solvent | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
product | naphthalene | C1=CC=CC2=CC=CC=C12 | C10H8
